US07064124B2
N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]morpholine
Morpholine (19 mg, 0.2183 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (55 mg, 0.2869 mmol) were added to a methylene chloride solution (10 ml) of 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid (60 mg, 0.1421 mmol) and the resulting solution was stirred at room temperature for 16 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=1:2) to obtain the titled compound (55 mg, 0.1120 mmol, 79%).

reactant | Morpholine | 0.2183 mmol, 19 mg | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.2869 mmol, 55 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid | 0.1421 mmol, 60 mg | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)OCC1=CC=CC=C1)C)=O | C24H22O7
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]morpholine | 0.1120 mmol, 55 mg, 79% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)N2CCOCC2)C=C1)OCC1=CC=CC=C1)C)=O | C28H29NO7
